US07851473B2
(5) 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine
1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine hydrochloride (1.00 g, 2.97 mmol) was dissolved in water. The solution was neutralized with 1N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the desired product (696 mg, 67.2%) as an oil.

reactant | 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine hydrochloride | 2.97 mmol, 1.00 g | Cl.FC1=CC=C(C=C1)C=1N=C(SC1)N1CCNCC1
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine | 696 mg, 67.2% | FC1=CC=C(C=C1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
